US04379154
A mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47/53 by volume; 70 cc) is added dropwise and in the course of 15 minutes to a 1.6 M solution of n-butyllithium in hexane (119 cc), kept under a nitrogen atmosphere and at a temperature of about -60° C. A solution of 2-pyrazinyltetrahydrothiophen (19.5 g) in a mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47/53 by volume; 70 cc) is then added in the course of 15 minutes. After stirring for 15 minutes, a solution of methyl isothiocyanate (12.7 g) in a mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47/53 by volume; 30 cc) is added in the course of 15 minutes. The reaction mixture is subsequently stirred for 45 minutes at -65° C. and then for 1 hour whilst allowing the temperature to rise gradually to about 20° C. It is then run into a mixture of ethyl acetate (300 cc) and distilled water (500 cc). After decantation, the aqueous solution is extracted twice with ethyl acetate (400 cc in total). The organic extracts are combined, washed three times with distilled water (1500 cc in total), dried over anhydrous sodium sulphate and filtered and the filtrate is concentrated under reduced pressure (20 mm Hg; 2.7 kPa) at 70° C. The product obtained (33.3 g) is chromatographed on neutral silica gel (330 g) contained in a column of diameter 4.2 cm. Elution is carried out successively with a cyclohexane/ethyl acetate mixture (90/10 by volume; 4000 cc) and then with a cyclohexane/ethyl acetate mixture (80/20 by volume; 7000 cc), 500 cc fractions being collected. Fractions 13 to 22 are combined and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 60° C. The product obtained (11 g) is dissolved in a boiling mixture of propanol and diisopropyl ether (75/25 by volume; 48 cc); decolourising charcoal (0.2 g) is added to the solution, which is filtered hot, and the filtrate is then cooled for 18 hours at 5° C. The resulting crystals are filtered off, washed with a propanol/diisopropyl ether mixture (75/25 by volume; 10 cc) and dried under reduced pressure (1 mm Hg; 0.13 kPa) at 45° C. N-Methyl-2-pyrazinyltetrahydrothiophen-2-carbothioamide (4.9 g), melting at 127° C., is thus obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-pyrazinyltetrahydrothiophen | 19.5 g | N1=C(C=NC=C1)C1SCCC1 | C8H10N2S
reactant | methyl isothiocyanate | 12.7 g | CN=C=S | C2H3NS
reactant | charcoal | 0.2 g | C | CH4
solvent | hexane | 119 cc | CCCCCC | C6H14
solvent | propanol | C(CC)O | C3H8O
solvent | diisopropyl ether | 48 cc | C(C)(C)OC(C)C | C6H14O
solvent | ethyl acetate | 300 cc | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 cc | O1CCCC1 | C4H8O
solvent | hexamethylphosphorotriamide | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | tetrahydrofuran | 70 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 cc | O1CCCC1 | C4H8O
product | N-Methyl-2-pyrazinyltetrahydrothiophen-2-carbothioamide | 4.9 g | CNC(=S)C1(SCCC1)C1=NC=CN=C1 | C10H13N3S2
